.SUBCKT NFET DRAIN GATE SOURCE BULK PARAMS: W=1U L=0.35U
MN DRAIN GATE SOURCE BULK CMOSN W={W} L={L}
+ AS={2u*W} PS={2*(2u+W)} AD={2u*W} PD={2*(2u+W)}
.ENDS

.SUBCKT PFET SOURCE GATE DRAIN WELL PARAMS: W=1U L=0.35U
MP DRAIN GATE SOURCE WELL CMOSP W={W} L={L}
+ AS={2u*W} PS={2*(2u+W)} AD={2u*W} PD={2*(2u+W)}
.ENDS

.MODEL CMOSN NMOS (                                LEVEL   = 8
+VERSION = 3.1            TNOM    = 27             TOX     = 7.7E-9
+XJ      = 1E-7           NCH     = 2.2E17         VTH0    = 0.465403
+K1      = 0.605685       K2      = 7.401855E-4    K3      = 100
+K3B     = -9.9978452     W0      = 3.104982E-5    NLX     = 2.718863E-7
+DVT0W   = 0              DVT1W   = 0              DVT2W   = 0
+DVT0    = 2.9399069      DVT1    = 0.8628462      DVT2    = -0.3
+U0      = 364.9848005    UA      = -7.38738E-10   UB      = 2.285693E-18
+UC      = 3.664402E-11   VSAT    = 1.566234E5     A0      = 1.1469517
+AGS     = 0.1642206      B0      = 7.913741E-7    B1      = 5E-6
+KETA    = 1.59443E-3     A1      = 0              A2      = 0.4470956
+RDSW    = 957.4487567    PRWG    = -0.075128      PRWB    = -0.1078364
+WR      = 1              WINT    = 1.510787E-7    LINT    = 0
***** +XL      = -5E-8          XW      = 1.5E-7   ***** Unused in LTspice
+DWG     = -5.692108E-9
+DWB     = 5.225149E-9    VOFF    = -0.0893518     NFACTOR = 1.3113023
+CIT     = 0              CDSC    = 2.4E-4         CDSCD   = 0
+CDSCB   = 0              ETA0    = 1              ETAB    = 0.0295297
+DSUB    = 0.7823887      PCLM    = 1.676311       PDIBLC1 = 1.547328E-4
+PDIBLC2 = 4.724954E-3    PDIBLCB = 0.0767737      DROUT   = 3.365824E-4
+PSCBE1  = 7.16268E8      PSCBE2  = 1E-3           PVAG    = 3.079663E-3
+DELTA   = 0.01           RSH     = 79.1           MOBMOD  = 1
+PRT     = 0              UTE     = -1.5           KT1     = -0.11
+KT1L    = 0              KT2     = 0.022          UA1     = 4.31E-9
+UB1     = -7.61E-18      UC1     = -5.6E-11       AT      = 3.3E4
+WL      = 0              WLN     = 1              WW      = 0
+WWN     = 1              WWL     = 0              LL      = 0
+LLN     = 1              LW      = 0              LWN     = 1
+LWL     = 0              CAPMOD  = 2              XPART   = 0.5
+CGDO    = 3.18E-10       CGSO    = 3.18E-10       CGBO    = 1E-12
+CJ      = 9.324477E-4    PB      = 0.8162386      MJ      = 0.362829
+CJSW    = 2.809158E-10   PBSW    = 0.8            MJSW    = 0.1824357
+CJSWG   = 1.82E-10       PBSWG   = 0.8            MJSWG   = 0.1824357
+CF      = 0              PVTH0   = -0.0279291     PRDSW   = -98.8829593
+PK2     = 1.6222E-3      WKETA   = -7.135466E-4   LKETA   = 3.68571E-4      )
*
.MODEL CMOSP PMOS (                                LEVEL   = 8
+VERSION = 3.1            TNOM    = 27             TOX     = 7.7E-9
+XJ      = 1E-7           NCH     = 8.52E16        VTH0    = -0.7104638
+K1      = 0.4314573      K2      = -0.0129797     K3      = 86.403366
+K3B     = -4.9887168     W0      = 6.790634E-6    NLX     = 1.01238E-7
+DVT0W   = 0              DVT1W   = 0              DVT2W   = 0
+DVT0    = 0.7043065      DVT1    = 0.7538793      DVT2    = -0.1364644
+U0      = 152.0101039    UA      = 1.006463E-10   UB      = 1.890539E-18
+UC      = -1.74459E-11   VSAT    = 2E5            A0      = 1.1765964
+AGS     = 0.3405976      B0      = 2.107301E-6    B1      = 5E-6
+KETA    = -6.90419E-3    A1      = 4.217794E-3    A2      = 0.9994396
+RDSW    = 3.25395E3      PRWG    = -0.0251462     PRWB    = -0.0345874
+WR      = 1              WINT    = 1.513212E-7    LINT    = 0
***** +XL      = -5E-8          XW      = 1.5E-7   ***** Unused in LTspice      
+DWG     = -1.856889E-8
+DWB     = 1.207799E-8    VOFF    = -0.1270571     NFACTOR = 1.9223541
+CIT     = 0              CDSC    = 2.4E-4         CDSCD   = 0
+CDSCB   = 0              ETA0    = 0.0332936      ETAB    = 3.097432E-3
+DSUB    = 0.270751       PCLM    = 5.2787472      PDIBLC1 = 1.57371E-3
+PDIBLC2 = -4.147325E-6   PDIBLCB = -1E-3          DROUT   = 8.531668E-4
+PSCBE1  = 7.929595E10    PSCBE2  = 5.008484E-10   PVAG    = 15
+DELTA   = 0.01           RSH     = 148.3          MOBMOD  = 1
+PRT     = 0              UTE     = -1.5           KT1     = -0.11
+KT1L    = 0              KT2     = 0.022          UA1     = 4.31E-9
+UB1     = -7.61E-18      UC1     = -5.6E-11       AT      = 3.3E4
+WL      = 0              WLN     = 1              WW      = 0
+WWN     = 1              WWL     = 0              LL      = 0
+LLN     = 1              LW      = 0              LWN     = 1
+LWL     = 0              CAPMOD  = 2              XPART   = 0.5
+CGDO    = 3.61E-10       CGSO    = 3.61E-10       CGBO    = 1E-12
+CJ      = 1.397166E-3    PB      = 0.99           MJ      = 0.5775057
+CJSW    = 3.172123E-10   PBSW    = 0.99           MJSW    = 0.3575424
+CJSWG   = 4.42E-11       PBSWG   = 0.99           MJSWG   = 0.3575424
+CF      = 0              PVTH0   = 0.0166636      PRDSW   = -89.3748363
+PK2     = 2.060693E-3    WKETA   = 4.168039E-3    LKETA   = -4.428159E-3    )
*
